US04935430
4-(2-Chlorophenyl)-1,4-dihydro-3-ethoxycarbonyl-6-methyl-2-[2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-yl]-5-[N-(2-pyridyl)carbamoyl]pyridine
A solution of ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate (324 mg, 1.0 mmol), 3-amino-N-(2-pyridyl)but-2-enamide (178 mg, 1.0 mmol) and 2-chlorobenzaldehyde (140 mg, 1.0 mmol) in ethanol (4 ml) was heated under reflux for 5 hours under nitrogen. The solution was cooled and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with ethyl acetate:methanol, 6:1), followed by sonication of a suspension of the eluted product in ether/ethyl acetate, 3:1 for 45 minutes. The off-white solid product was filtered off and dried in vacuo to give the title compound, 140 mg (23%), m.p. 242°-3° C.

reactant | ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate | 1.0 mmol, 324 mg | CC=1N(C2=C(C=NC=C2)N1)C1=NC=C(C=C1)C(=O)CC(=O)OCC | C17H16N4O3
reactant | 3-amino-N-(2-pyridyl)but-2-enamide | 1.0 mmol, 178 mg | NC(=CC(=O)NC1=NC=CC=C1)C | C9H11N3O
reactant | 2-chlorobenzaldehyde | 1.0 mmol, 140 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-1,4-dihydro-3-ethoxycarbonyl-6-methyl-2-[2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-yl]-5-[N-(2-pyridyl)carbamoyl]pyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(NC1=NC=CC=C1)=O)C)C=1C=CC(=NC1)N1C(=NC=2C=NC=CC21)C)C(=O)OCC | C33H28ClN7O3
